US06498159B1
4.25 g of tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate was dissolved in 30 ml dimethylformamide, 5.38 g of sodium imidazole was added thereto, and the mixture was stirred at 60° C. for 3 hr and 40 min. After cooling, ethyl acetate was added to the reaction solution, and it was washed with water for 3 times and then with brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated and subjected to silica gel column chromatography to give 4.93 g of tert-butyl 4-hydroxy-4-(1H-1-imidazolylmethyl)-1-piperidinecarboxylate.

reactant | tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate | 4.25 g | O1CC12CCN(CC2)C(=O)OC(C)(C)C | C11H19NO3
reactant | sodium imidazole | 5.38 g | N1C=NC=C1.[Na]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-hydroxy-4-(1H-1-imidazolylmethyl)-1-piperidinecarboxylate | 4.93 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)CN1C=NC=C1 | C14H23N3O3
